Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5],1.73650855074
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.1180734529400005
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],1.28208515791
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4],4.97537587541
[C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10].[H:1]>>[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10],-3.52049358454
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:7],2.98643373906
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],1.7199581648500002
[H:1][C:2]1[C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-1.24432184466
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],5.63564548079
[C:6]([H:7])[H:8].[H:1][C:2]([O:3][C:4][H:5])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-7.472655664299999
[H:1][C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][C:5]#[C:6])[C:8]([H:9])([H:10])[H:11].[H:7],5.520931118200001
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],3.84062821233
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][O:2][C:3]([H:4])[H:5],3.7759559972
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.23682858085
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3][H:4],3.35901234644
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])=[O:9]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.8259711702
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1],3.67213853356
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],0.94413581
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4],1.88050196965
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],4.19156300809
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9][H:10]>>[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.7053835648
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[O:1]=[C:2],2.05797048225
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2]#[C:3][C:4][O:6][H:7].[H:5],4.06692812682
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12],1.3613401766
[H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.5752168745
[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.0452959863
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9],5.31732899622
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.32043757995
